US04608079
Furo[2,3-b]pyridine-5,6-dicarboxylic acid (6.7 g, 0.032 mol) is heated at 60° C. for 30 minutes in acetic anhydride (150 mL). The reaction mixture is cooled to room temperature and concentrated in vacuo and the residue triturated with cyclohexane-ether (5:1), filtered off and dried to give 5.35 g furo[2,3-b]pyridine-5,6-dicarboxylic acid anhydride.

reactant | Furo[2,3-b]pyridine-5,6-dicarboxylic acid | 0.032 mol, 6.7 g | O1C=CC=2C1=NC(=C(C2)C(=O)O)C(=O)O | C9H5NO5
solvent | acetic anhydride | 150 mL | C(C)(=O)OC(C)=O | C4H6O3
product | furo[2,3-b]pyridine-5,6-dicarboxylic acid anhydride | 5.35 g | O1C=CC=2C1=NC1=C(C2)C(=O)OC1=O | C9H3NO4
